US07612201B2
Potassium carbonate (4.02 g, 29.10 mmol) was added to a solution of 4′-fluoro-2′-hydroxyacetophenone (2.0 mL, 2.56 g, 16.60 mmol) in DMF (15 mL). Benzyl bromide (2.07 mL, 2.98 g, 17.50 mmol) was added dropwise over 5 minutes at room temperature, and the mixture stirred for 18 h. The mixture was poured into hydrochloric acid (1.0 M in H2O; 200 mL) and extracted with ethyl acetate (2×100 mL). The combined organic extracts were dried (MgSO4) and the solvents removed in vacuo. Pure 2′-(benzyloxy)-4′-fluoroacetophenone (3.94 g, 97%) was obtained as a white powder after trituration with hexane. Rf 0.44 (9:1 hexane:EtOAc); δH (CDCl3) 7.82 (1H, dd, J=8.6 and 7.0 Hz), 7.43-7.38 (5H, m), 6.75-6.69 (2H, m), 5.13 (2H, s), 2.56 (3H, d, J=3.2 Hz); LCMS retention time 2.68 min, M+H+ 245.1.

reactant | Potassium carbonate | 29.10 mmol, 4.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4′-fluoro-2′-hydroxyacetophenone | 16.60 mmol, 2.0 mL, 2.56 g | FC1=CC(=C(C=C1)C(C)=O)O | C8H7FO2
reactant | Benzyl bromide | 17.50 mmol, 2.07 mL, 2.98 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | 1.0 M, 200 mL | Cl | ClH
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2′-(benzyloxy)-4′-fluoroacetophenone | 3.94 g, 97% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)F)C(C)=O | C15H13FO2
